Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.50247983204
[C:4]([H:5])#[C:6][H:7].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7],-1.34842457972
[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.61870229302
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:7]=[C:9]([H:10])[H:11].[H:8],3.8547076796300006
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:5]#[C:6][H:7].[O:8]=[C:9]([H:10])[H:11],0.24351549508
[O:1][O:2][C:3]#[C:4][H:5]>>[H:5].[O:1][O:2][C:3]#[C:4],5.70159000349
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14],-3.6736327524
[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],2.04247791971
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])[H:7],3.416757908120001
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[O:1]=[C:2]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-0.8191645260609999
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17].[H:8],4.42651755061
[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-2.291264682
[C:1].[C:2](=[O:3])[O:4][C:5]#[C:6][H:7]>>[C:1][C:2](=[O:3])[O:4][C:5]#[C:6][H:7],-3.95531879389
[C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[O:8][H:9].[H:1]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7]/[O:8][H:9],-5.50029598112
[C:9]([H:10])([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],1.30354828389
[O:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[C:3]([H:4])([H:5])=[C:6][H:7].[O:1]=[O:2],-1.42017030369
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],2.02021557477
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7],5.29084518258
[H:1][O:2][C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17].[H:4]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17],-4.07569876246
[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3](=[C:4])[O:11][H:12]>>[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[O:11][H:12],-1.84544271303
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:10]([H:11])([H:12])[H:13],4.85340317747
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]([H:7])([H:8])[O:9][H:10],2.7295743963200003
[O:1]=[C:2]=[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10].[O:1][C:2][C:3],6.98228455146
[H:1][C:2][O:4][C:5]([H:6])=[C:7]([H:8])[H:9].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-3.77564238841
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:13]([H:14])([H:15])[H:16].[O:11][H:12],5.383325180780001
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[O:12][H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],5.21454701486
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13]>>[C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][H:4],3.61387279718
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10].[H:1][O:2],6.0577604681
[C:4]([H:5])[H:6].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[H:6],-9.1917648
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.2123638138
